US07923556B2
4-(2-chlorophenyl)-6-(2-(isopropylamino)thiazol-5-yl)pyrimidin-2-ol
Example 318 was prepared from 5-(6-(2-chlorophenyl)-2-(methylsulfonyl)pyrimidin-4-yl)-N-isopropylthiazol-2-amine utilizing a similar procedure as described in Example 50 by substituting 1-methylpiperazine with 1N NaOH aqueous solution. Yellow solid. HPLC Ret. time: 2.55 min. LCMS MH+ (m/z) 347.20. 1H NMR: (d6-DMSO, 500 MHz) δ 11.58 (br, 1H), 8.41 (d, 1H), 8.12 (s, 1H), 7.60 (m, 1H), 7.55 (m, 2H), 7.48 (m, 1H), 6.86 (br. s, 1H), 3.86 (m, 1H), 1.18 (d, 6H).

reactant | 5-(6-(2-chlorophenyl)-2-(methylsulfonyl)pyrimidin-4-yl)-N-isopropylthiazol-2-amine | ClC1=C(C=CC=C1)C1=CC(=NC(=N1)S(=O)(=O)C)C1=CN=C(S1)NC(C)C | C17H17ClN4O2S2
reactant | NaOH | 1N | [OH-].[Na+]
product | 4-(2-chlorophenyl)-6-(2-(isopropylamino)thiazol-5-yl)pyrimidin-2-ol | ClC1=C(C=CC=C1)C1=NC(=NC(=C1)C1=CN=C(S1)NC(C)C)O | C16H15ClN4OS
